US05599991
Potentiation of tyramine pressor effect in conscious rats Experimental protocol
Rats were anesthetized with a mixture of pentobarbital (30 mg/kg) and chloral hydrate (120 mg/kg) by intraperitoneal injection. The left carotid artery and jugular vein were cannulated with fine polytene tubing (artery) or fine silicone rubber tubing connected to polyethylene tubing (vein), the distal end of which was brought under the skin to an anchor point behind the neck. The tubing was filled with heparinized saline solution, and plugged with a fine steel rod. The animals were treated with 20 mg chloramphenicol by intramuscular injection and allowed to recover from the operation overnight. The following day, the rats were placed in a high-walled container permitting free movement. The arterial catheter was connected to a pressure transducer via a 100 cm length of saline-filled, fine-bore polyethylene tubing, and the venous catheter connected to a lml syringe via a similar length of tubing, which, together with the syringe, contained a solution of tyramine hydrochloride in saline (1 mg/ml). Following an equilibration period of 30 to 40 minutes, tyramine injections (50 or 100 μg) were given, and blood pressure responses recorded. An interval of at least 15 minutes was maintained between injections after return of blood pressure to control values. Control pressor responses were established, then one of the drugs was injected intraperitoneally, and tyramine responses were repeated over the next 4 hours. The area under the blood pressure response curve was estimated, and the ratio of this area after treatment to before treatment and to 1 to 3 hours after injection of the compounds, was determined using the average of 3 to 4 values obtained in the control period.

reactant | pentobarbital | CCCC(C)C1(C(=O)NC(=O)NC1=O)CC | C11H18N2O3
reactant | chloral hydrate | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | polyethylene | C(C[*:2])[*:1]
reactant | chloramphenicol | 20 mg | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
product | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
